US04825005
A 1 liter reactor is charged with 300 ml of methyl isobutyl ketone, 79.17 g of 2,4-dinitrophenol (100%) and 175.9 g of ground potassium carbonate and 63.6 g of methyl bromide. The autoclave is closed and heated for 3 hours to 115°-120° C. (pressure: 3.5 bar). The temperature is then kept for a further 5 hours at 140°-142° C. (pressure: 5-3 bar, falling). After cooling to c. 25° C., the solvent is distilled off at 50° C. under a partial vacuum and the salt-containing residue is taken up in warm water. 2,4-Dinitroanisole is isolated by filtration and washed with 1% ammonia solution and with warm water of c. 50° C. and dried at 50° C. under vacuum, to give 84.6 g (91.2% yield) of 2,4-dinitroanisole with a titre of 91.8%.

reactant | 2,4-dinitrophenol | 79.17 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4N2O5
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromide | 63.6 g | CBr | CH3Br
solvent | methyl isobutyl ketone | 300 ml | C(C(C)C)C(=O)C | C6H12O
product | 2,4-Dinitroanisole | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])OC | C7H6N2O5
